US06180622B2
2-Iodoacetamide (198.0 mg) and 221.9 mg of aluminum perchlorate are added to a solution of 42.6 mg of allyl (1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(5-chloroimidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate, described in Example 64-a), in 1.0 ml of dry acetonitrile. The mixture is stirred in an argon atmosphere at room temperature for 48 hr. The mixture is then filtered to remove insolubles, and the filtrate is subjected to evaporation. The residue is purified by column chromatography on Sephadex LH-20 (dichloromethane:methanol=1:1) and then ion-exchanged using Amberlyst A-26 (Cl− form) (water) to give 48.3 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(6-carbamoylmethyl-5-chloroimidazo[5,1-b]thiazolium-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate chloride as a yellow oil.

reactant | 2-Iodoacetamide | 198.0 mg | ICC(=O)N | C2H4INO
reactant | aluminum perchlorate | 221.9 mg | Cl(=O)(=O)(=O)[O-].[Al+3].Cl(=O)(=O)(=O)[O-].Cl(=O)(=O)(=O)[O-]
reactant | allyl (1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(5-chloroimidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 42.6 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=CN2C(S1)=CN=C2Cl)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H31ClN4O6S2
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(6-carbamoylmethyl-5-chloroimidazo[5,1-b]thiazolium-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate chloride | 48.3 mg | [Cl-].C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=C[N+]=2C(S1)=CN(C2Cl)CC(N)=O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C29H34ClN5O7S2.ClH/c1-5-7-41-27(39)24-25(15(3)23-22(16(4)36)26(38)35(23)24)44-19-10-17(33(11-19)29(40)42-8-6-2)9-18-12-34-21(43-18)14-32(28(34)30)13-20(31)37;/h5-6,12,14-17,19,22-23,36H,1-2,7-11,13H2,3-4H3,(H-,31,37);1H/t15-,16-,17-,19+,22-,23-;/m1./s1
